US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 3-methoxyphenylboronic acid (86.13 mg, 0.57 mmol, 2.00 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) yielded 85 mg (80%) of 3-(3-methoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 3-methoxyphenylboronic acid | 0.57 mmol, 86.13 mg, 2.00 equiv | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-(3-methoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid | 85 mg, 80% | COC=1C=C(C=CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C22H16N2O3
